US07829584B2
A mixture of 2-(1,1-difluoro-2-iodo-ethyl)-pyrimidine (841 mg, 3.11 mmol), as prepared in the previous step, NaN3 (338 mg, 5.19 mmol), and DMSO (2.35 mL) was stirred at 95° C. for 3 days. The reaction was then shaken with water (10 mL) and extracted with ether (3×8 mL). The organic layers were combined, dried (Na2SO4), and concentrated to give the intermediate 2-(2-azido-1,1-difluoro-ethyl)-pyrimidine as a clear yellow oil (591 mg) that was immediately used in the next step without further purification or characterization.

reactant | 2-(1,1-difluoro-2-iodo-ethyl)-pyrimidine | 3.11 mmol, 841 mg | FC(CI)(F)C1=NC=CC=N1 | C6H5F2IN2
reactant | NaN3 | 5.19 mmol, 338 mg | [N-]=[N+]=[N-].[Na+]
reactant | DMSO | 2.35 mL | CS(=O)C | C2H6OS
solvent | water | 10 mL | O | H2O
product | 2-(2-azido-1,1-difluoro-ethyl)-pyrimidine | 591 mg | N(=[N+]=[N-])CC(F)(F)C1=NC=CC=N1 | C6H5F2N5
